US05935907
A mixture consisting of 3-{2-fluoro-5-nitro-4-[2-(trimethylsilyl)-1-ethynyl]phenyl}-1,5-dimethyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (11.95 g), iron powder (15.68 g), acetic acid (14 ml), water (14 ml) and ethanol (280 ml) was heated to 80° C. and stirred for 3 hours. Then, the solvent was distilled off under reduced pressure. An aqueous sodium hydroxide solution was added thereto to make it alkaline. Then, methylene chloride was added thereto for extraction. After washing with water, it was dried over anhydrous magnesium sulfate. Then, methylene chloride was distilled off, and the resulting residue was crystallized from a mixed solvent of ethyl acetate and n-hexane (1:3 v/v) to obtain 3-{5-amino-2-fluoro-4-[2-(trimethylsilyl)-1-ethynyl]-phenyl}-1,5-dimethyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (7.70 g).

reactant | 3-{2-fluoro-5-nitro-4-[2-(trimethylsilyl)-1-ethynyl]phenyl}-1,5-dimethyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 11.95 g | FC1=C(C=C(C(=C1)C#C[Si](C)(C)C)[N+](=O)[O-])N1C(N(C(=C(C1=O)C)C(F)(F)F)C)=O | C18H17F4N3O4Si
reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
reactant | water | 14 ml | O | H2O
catalyst | iron | 15.68 g | [Fe] | Fe
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 3-{5-amino-2-fluoro-4-[2-(trimethylsilyl)-1-ethynyl]-phenyl}-1,5-dimethyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 7.70 g | NC=1C(=CC(=C(C1)N1C(N(C(=C(C1=O)C)C(F)(F)F)C)=O)F)C#C[Si](C)(C)C | C18H19F4N3O2Si
